US07585977B2
2-(4-Cyclopropanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Dissolve 1-bromo-4-cyclopropanesulfonyl-benzene (500 mg, 1.91 mmol), bis(pinacolato)diboron (577 mg, 2.29 mmol), potassium acetate (513 mg, 5.70 mmol) and PdCl2(dppf)-CH2Cl2 (46 mg, 0.057 mmol) in dry DMSO (10 mL) under a nitrogen atmosphere. Heat the mixture to 80° C. for four hours. Cool the reaction to room temperature and pour into water (100 mL). Extract the aqueous phase with Et2O (2×50 mL) and wash the combined organic layers with water (50 mL). Dry over sodium sulfate and concentrate in vacuo. Chromatograph the residue on a SiO2 column eluting the material with EtOAc in hexanes (10 to 40%) to give 200 mg of the title compound (34%).

reactant | 1-bromo-4-cyclopropanesulfonyl-benzene | 1.91 mmol, 500 mg | BrC1=CC=C(C=C1)S(=O)(=O)C1CC1 | C9H9BrO2S
reactant | bis(pinacolato)diboron | 2.29 mmol, 577 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.70 mmol, 513 mg | C(C)(=O)[O-].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) CH2Cl2 | 0.057 mmol, 46 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-Cyclopropanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 200 mg, 34% | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO4S
